US08802858B2
2-Amino-N-(4-{2-[2-(4-amino-furazan-3-yl)-benzoimidazol-1-yl]-acetyl}-phenyl)-acetamide hydrochloride salt
To a stirred solution of 0.045 g of [(4-{2-[2-(4-amino-furazan-3-yl)-benzoimidazol-1-yl]-acetyl}-phenylcarbamoyl)-methyl]-carbamic acid tert-butyl ester (0.09 mmol; 1 eq.) in 0.5 mL of 1,4-dioxane are added dropwise 0.11 mL of a 4M HCl solution in 1,4-dioxane (0.44 mmol; 5 eq.) at room temperature. The reaction mixture is stirred for 2 h at room temperature. Then, 5 mL of diisopropylether are added and the resulting suspension is filtered, washed with diisopropylether (2×2 mL) and dried under reduced pressure to give 0.04 g of crude material. The crude solid is subjected to MCI gel column chromatography eluting with a mixture water/acetonitrile (85/15 to 70/30) containing 0.05% of HCl, to afford 0.014 g of the desired product as an orange powder.

reactant | [(4-{2-[2-(4-amino-furazan-3-yl)-benzoimidazol-1-yl]-acetyl}-phenylcarbamoyl)-methyl]-carbamic acid tert-butyl ester | 0.09 mmol, 0.045 g, 1 eq. | C(C)(C)(C)OC(NCC(NC1=CC=C(C=C1)C(CN1C(=NC2=C1C=CC=C2)C2=NON=C2N)=O)=O)=O | C24H25N7O5
reactant | HCl | 4M | Cl | ClH
reactant | diisopropylether | 5 mL | C(C)(C)OC(C)C | C6H14O
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 0.44 mmol, 5 eq. | O1CCOCC1 | C4H8O2
product | 2-Amino-N-(4-{2-[2-(4-amino-furazan-3-yl)-benzoimidazol-1-yl]-acetyl}-phenyl)-acetamide hydrochloride salt | 0.014 g | Cl.NCC(=O)NC1=CC=C(C=C1)C(CN1C(=NC2=C1C=CC=C2)C2=NON=C2N)=O | InChI=1S/C19H17N7O3.ClH/c20-9-16(28)22-12-7-5-11(6-8-12)15(27)10-26-14-4-2-1-3-13(14)23-19(26)17-18(21)25-29-24-17;/h1-8H,9-10,20H2,(H2,21,25)(H,22,28);1H
